US08232294B2
Step 4) 1-((4-(4-(1-(carbamoyl)cyclopropanecarboxamido)-2-fluorophenoxy)-6-methoxyquinolin-7-yloxy)methyl)cyclopropyl benzoate
To a mixture of 1-((methylsulfonyloxy)methyl)cyclopropyl benzoate (801 mg, 2.97 mmol) and N-(3-fluoro-4-(7-hydroxy-6-methoxy quinolin-4-yloxy)phenyl)-N-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide (1 g, 1.98 mmol) in DMA (5 mL) were added Cs2CO3 (1.93 g, 5.94 mmol, Aladdin). The reaction was heated at 45° C. overnight. The solvent was then removed in vacuo, and the residual was diluted with CHCl3 (30 mL). The organic layer was dried over Na2SO4 and concentrated in vacuo. The residual was purified by a silica gel column chromatography (EtOAc) to afford the title compound as a light yellow solid (800 mg, 60%).

reactant | 1-((methylsulfonyloxy)methyl)cyclopropyl benzoate | 2.97 mmol, 801 mg | C(C1=CC=CC=C1)(=O)OC1(CC1)COS(=O)(=O)C | C12H14O5S
reactant | N-(3-fluoro-4-(7-hydroxy-6-methoxy quinolin-4-yloxy)phenyl)-N-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | 1.98 mmol, 1 g | FC=1C=C(C=CC1OC1=CC=NC2=CC(=C(C=C12)OC)O)N(C(=O)C1(CC1)C(=O)N)C1=CC=C(C=C1)F | C27H21F2N3O5
reactant | Cs2CO3 | 5.94 mmol, 1.93 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMA | 5 mL | CC(=O)N(C)C | C4H9NO
product | 1-((4-(4-(1-(carbamoyl)cyclopropanecarboxamido)-2-fluorophenoxy)-6-methoxyquinolin-7-yloxy)methyl)cyclopropyl benzoate | 800 mg, 60% | C(C1=CC=CC=C1)(=O)OC1(CC1)COC1=C(C=C2C(=CC=NC2=C1)OC1=C(C=C(C=C1)NC(=O)C1(CC1)C(N)=O)F)OC | C32H28FN3O7
